US07943776B2
N-cyclopropyl-3-[(4-{[6-(hydroxymethyl)pyridin-2-yl]methoxy}benzoyl)amino]-4-methylbenzamide
3 -{[4-(hydroxy)benzoyl]amino }-N-cyclopropyl-4-methylbenzamide (100 mg, 0.323 mmol), [6-(bromomethyl)pyridin-2-yl]methanol (71 mg, 0.355 mmol) and potassium carbonate (49 mg, 0.355 mmol) were mixed in acetonitrile (3 mL) and the reaction was stirred at room temperature for 16 h. The reaction was then heated at 100° C. in the microwave for 10 mins. Water (10 mL) was added and the mixture was extracted with DCM (3×15 mL). The organic layers were combined and evaporated to give a white solid which was triturated with DCM to give the title compound as a white solid (80 mg, 58%); NMR Spectrum: (DMSOd6) 0.58 (m, 2H), 0.6S (m, 2H), 2.25 (s, 3H), 2.85 (m, 1H), 4.59 (s, 2H), 5.24 (s, 2H), 7.16 (d, 2H), 7.32 (d, 1H), 7.38 (d, 1H), 7.45 (d, 1H), 7.63 (m, 1H), 7.80 (m, 2H), 7.97 (d, 2H), 8.36 (d, 1H), 9.82 (s, 1H); Mass Spectrum: M+H+ 432.

reactant | 3 -{[4-(hydroxy)benzoyl]amino }-N-cyclopropyl-4-methylbenzamide | 0.323 mmol, 100 mg | OC1=CC=C(C(=O)NC=2C=C(C(=O)NC3CC3)C=CC2C)C=C1 | C18H18N2O3
reactant | [6-(bromomethyl)pyridin-2-yl]methanol | 0.355 mmol, 71 mg | BrCC1=CC=CC(=N1)CO | C7H8BrNO
reactant | potassium carbonate | 0.355 mmol, 49 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 10 mL | O | H2O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | N-cyclopropyl-3-[(4-{[6-(hydroxymethyl)pyridin-2-yl]methoxy}benzoyl)amino]-4-methylbenzamide | 80 mg, 58% | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=NC(=CC=C1)CO)=O)=O | C25H25N3O4
